US05190959
The procedure of Example 24 (a) was repeated except for using 4-(phenyl-4-pyridylmethoxy)piperidine and 1-chloro-3-(2-nitrophenoxy)propane instead of 4-[(2-chlorophenyl)-phenylmethoxy]piperidine and 1-chloro-3-(2-nitrophenoxy)propane to give oily 4-(phenyl-4-pyridylmethoxy)-1-[3-(2-nitrophenoxy)propyl]piperidine.

reactant | 4-(phenyl-4-pyridylmethoxy)piperidine | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=NC=C1 | C17H20N2O
reactant | 1-chloro-3-(2-nitrophenoxy)propane | ClCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C9H10ClNO3
product | 4-(phenyl-4-pyridylmethoxy)-1-[3-(2-nitrophenoxy)propyl]piperidine | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=NC=C1 | C26H29N3O4
